US04647583
3-Chloro-4-hydroxy-5-methoxymethylaniline (52.8 g) and N,N-diethylaniline (42.0 g) were dissolved in ethyl acetate (300 ml). To the resultant solution was dropwise added isopropyl chloroformate (34.6 g) in 15 minutes under ice-cooling. After being allowed to stand at room temperature for 12 hours, the reaction mixture was poured into ice-water. The organic layer was washed with dilute aqueous hydrochloric acid and water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using tolouene and ethyl acetate as the eluent to give isopropyl N-(3-chloro-4-hydroxy-5-methoxymethylphenyl)carbamate (65.6 g). Sodium hydride (9.60 g, 60% dispersion in mineral oil) was added to dimethylformamide (240 ml). To the resultant mixture was added isopropyl N-(3-chloro-4-hydroxy-5-methoxymethylphenyl)carbamate (65.6 g) under 5° C. The resulting solution was stirred for 30 minutes at a temperature of 20° C. and, to this solution was added chloroacetonitrile (19.0 g) in 5 minutes. The mixture was heated at 90° C. for 10 minutes and poured into ice-water and extracted with ethyl acetate. The extract was washed with aqueous potassium carbonate solution and water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using toluene and ethyl acetate as the eluent to give isopropyl N-(3-chloro-4-cyanomethoxy- 5-methoxymethylphenyl)carbamate (67.5 g) in a yield of 76.8%. M.P., 58.5°-60.5° C.

reactant | 3-Chloro-4-hydroxy-5-methoxymethylaniline | 52.8 g | ClC=1C=C(N)C=C(C1O)COC | C8H10ClNO2
reactant | N,N-diethylaniline | 42.0 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | isopropyl chloroformate | 34.6 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | isopropyl N-(3-chloro-4-hydroxy-5-methoxymethylphenyl)carbamate | 65.6 g | ClC=1C=C(C=C(C1O)COC)NC(OC(C)C)=O | C12H16ClNO4
